US06048842
2'-(2,3,4,6-Tetra-acetyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylacetophenone (120 g) is dissolved in a chilled mixture of ethanol (1.2 l) and 50% aqueous potassium hydroxide solution (240 g), and thereto is added 5-formylbenzo[b]furan (42.4 g), and the mixture is stirred at room temperature overnight under argon atmosphere. To the reaction solution are added 4-dimethylaminopyridine (29.5 g) and 10% platinum-carbon (23.58 g), and the mixture is stirred at room temperature for 4.5 hours under atmospheric pressure of hydrogen gas. The catalyst is removed by filtration, and the filtrate is washed with toluene, and acidified with 18% hydrochloric acid under ice-cooling. The mixture is extracted with ethyl acetate, and the organic layer is washed successively with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution. The washed aqueous layer is extracted with ethyl acetate, and the organic layers are combined, dried, and concentrated under reduced pressure. The residue is crystallized from water-ethanol to give 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (82.4 g).

reactant | 2'-(2,3,4,6-Tetra-acetyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylacetophenone | 120 g | C(C)(=O)[C@@]1([C@@H](O[C@@H]([C@]([C@@]1(O)C(C)=O)(O)C(C)=O)C(O)C(C)=O)OC1=C(C(=CC(=C1)C)O)C(C)=O)O | C23H28O12
reactant | potassium hydroxide | 240 g | [OH-].[K+]
reactant | 5-formylbenzo[b]furan | 42.4 g | C(=O)C1=CC2=C(OC=C2)C=C1 | C9H6O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.2 l | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | 29.5 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | platinum carbon | 23.58 g | [Pt].[C]
product | 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 82.4 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C24H26O9
